US08049006B2
2-amino-4-[(1R)-1-({[(6S)-6-(5-chloro-2-methoxybenzyl)-3,7-dioxo-1,4-diazepan-1-yl]carbonyl}amino)propyl]benzoic Acid (Compound 150)
(Step 2) To tert-butyl 2-amino-4-[(1R)-1-({[(6S)-6-(5-chloro-2-methoxybenzyl)-3,7-dioxo-4-(2,4,6-trimethoxybenzyl)-1,4-diazepan-1-yl]carbonyl}amino)propyl]benzoate (1.47 g), 1M hydrogen chloride/acetic acid solution (15 ml) was added and the mixture was stirred at room temperature for 20 hours. The reaction solution was concentrated, then the residue was purified by silica gel column chromatography (chloroform/ethyl acetate/methanol/acetic acid=8/8/1/0.1) to obtain the title compound (0.28 g).

reactant | tert-butyl 2-amino-4-[(1R)-1-({[(6S)-6-(5-chloro-2-methoxybenzyl)-3,7-dioxo-4-(2,4,6-trimethoxybenzyl)-1,4-diazepan-1-yl]carbonyl}amino)propyl]benzoate | 1.47 g | NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)[C@@H](CC)NC(=O)N1CC(N(C[C@@H](C1=O)CC1=C(C=CC(=C1)Cl)OC)CC1=C(C=C(C=C1OC)OC)OC)=O | C38H47ClN4O9
reactant | hydrogen chloride acetic acid | 1M, 15 ml | Cl.C(C)(=O)O
product | 2-amino-4-[(1R)-1-({[(6S)-6-(5-chloro-2-methoxybenzyl)-3,7-dioxo-1,4-diazepan-1-yl]carbonyl}amino)propyl]benzoic Acid | 0.28 g | NC1=C(C(=O)O)C=CC(=C1)[C@@H](CC)NC(=O)N1CC(NC[C@@H](C1=O)CC1=C(C=CC(=C1)Cl)OC)=O | C24H27ClN4O6
